US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone (2.28 g, 5.23 mmol) in anhydrous tetrahydrofuran (140 mL) at −78° C. under nitrogen atmosphere was added a solution of lithium bis(trimethylsilyl)amide in tetrahydrofuran (1 M, 7.84 mL, 7.84 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (3.07 g, 9.41 mmol) in tetrahydrofuran (10 mL) was added dropwise. The resulting mixture was stirred for an additional 1.5 h at −78° C. The reaction was quenched with water, extracted with ethyl acetate (200 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash column chromatography (silica gel from QingDao, 200-300 mesh, 50% dichloromethane/hexanes) afforded toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (0.85 g, 28%) as a light yellow solid: LC/MS m/e calcd for C28H25F3N2O5S2 [M+H]+ 591.65, observed 590.6.

reactant | 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-ethanone | 5.23 mmol, 2.28 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C(F)(F)F)C(CC2CCCC2)=O | C21H19F3N2O3S
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 9.41 mmol, 3.07 g | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7.84 mmol, 1 M, 7.84 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-trifluoromethyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 0.85 g, 28% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C(F)(F)F)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C28H25F3N2O5S2
